US04238621
N-[(4-Methoxy-6-methyl-1,3,5-triazine-2-yl)aminocarbonyl]-2-(isopropoxycarbonyl)benzenesulfonamide
To 26.8 g of 2-amino-4-methoxy-6-methyl-1,3,5-triazine in 300 ml anhydrous methylene chloride was added 67.0 g of 2-isopropoxycarbonylbenzenesulfonyl isocyanate in 100 ml anhydrous methylene chloride. The resultant suspension was stirred at ambient temperature for 72 hours, and filtered to yield 40.0 g of the desired product as a white solid, m.p. 193°-196° C. The solid showed infrared absorption peaks at 1700 and 1710 cm-1 consistent for N-[(4-methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]-2-(isopropoxycarbonyl)benzenesulfonamide.

reactant | 2-amino-4-methoxy-6-methyl-1,3,5-triazine | 26.8 g | NC1=NC(=NC(=N1)OC)C | C5H8N4O
reactant | 2-isopropoxycarbonylbenzenesulfonyl isocyanate | 67.0 g | C(C)(C)OC(=O)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C11H11NO5S
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-[(4-Methoxy-6-methyl-1,3,5-triazine-2-yl)aminocarbonyl]-2-(isopropoxycarbonyl)benzenesulfonamide | 40.0 g | COC1=NC(=NC(=N1)C)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C(=O)OC(C)C | C16H19N5O6S
